Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
peanut / cat dander / dog dander / ragweed pollen / jute / nut - 
unspecified
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ woman with severe persistent
asthma (1 prior intubation), allergies, and depression who is
presenting with shortness of breath.

She is followed by ___ pulmonary and was last seen in ___.
She is currently on Advair and Flovent standing and
duonebs/albuterol inhaler PRN. She previously tried Xolair, but
developed a hypersensitivity reaction. Pulmonary has been 
working
to get insurance approval for Nucala - the patient reports she
now has approval, but still needs to schedule an appointment for
administration. She is also taking montelukast, zyrtec, and
Flonase for her allergies. In spite of this, she's had to take
prednisone ~twice per month for the past several months for her
asthma symptoms.

This time she reports that she had contact with a sick child a
few days ago and then developed URI symptoms (runny nose, sore
throat, and cough). She then developed shortness of breath and
wheezing typical of prior asthma exacerbations. She has been
taking her medications as prescribed and took predisone 40mg on
the day prior to presentation and on the day of presentation. 
Her
symptoms persisted and so she presented to the ED on ___.

ED Course
- Vitals: T 97.3, HR 120, BP 166/65, SpO2 94% on RA
- Data: VBG 7.4/43 --> 7.4/41, WBC 14.9
- Interventions: Duonebs, magnesium, solumedrol 80mg IV,
prednisone 60
- Course: 
Observed overnight and treated for asthma exacerbation as above.
This morning continued to sound wheezy
Vitals at the time of admission w/ HR 99, SpO2 92% on RA 
Ambulatory O2 sat 90% on RA
Decision to admit for management of asthma exacerbation

 
Past Medical History:
Allergies
Asthma
Hyperglycemia associated with chronic steroid use
Osteoarthritis
Depression
 
Social History:
___
Family History:
Reviewed and found to be not relevant to this illness/reason for
hospitalization.
 
Physical Exam:
ON ADMISSION:

GENERAL: Well appearing, in no distress
EYES: Anicteric, PERRL
ENT: MMM. No OP lesion, erythema or exudate.  Ears and nose
without visible erythema, masses, or trauma.  
CV: Heart regular, no m/g.  JVP 6cm
RESP: Lungs with decreased breath sounds bilaterally, no wheezes
or rhonchi, speaking in short sentences, not using accessory
muscles
GI: Abdomen soft, NTND.  Bowel sounds present.
GU: No suprapubic ttp or fullness
MSK: Extremities warm without edema. Moves all extremities
SKIN: No rashes or ulcerations noted on examined skin
NEURO: Alert, oriented, face symmetric, speech fluent sensation
to light touch grossly intact throughout
PSYCH: pleasant, appropriate affect

Exam on Discharge;
VITALS: ___ 1049 Temp: 97.7 PO BP: 155/83 HR: 97 RR: 18 O2
sat: 94% O2 delivery: Ra 
GENERAL: Alert, awake, sitting in bed, appears comfortable,
responds appropriately to questions
EYES: Anicteric, EOMI
CV: Heart regular, no murmur, no S3, no S4.
RESP: speaking in full sentences, faint expiratory wheezing. 
Good
air movement.
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present. 
GU: No suprapubic fullness or tenderness to palpation. No Foley.
MSK: Moves all extremities, no edema
SKIN: No rashes or ulcerations
NEURO: Alert, oriented x3, face symmetric, EOMI, speech fluent,
moves all limbs
PSYCH: Pleasant, appropriate affect, calm, cooperative
 
Pertinent Results:
ADMISSION LABS:

___ 08:26PM BLOOD WBC-14.9* RBC-4.33 Hgb-13.2 Hct-39.5 
MCV-91 MCH-30.5 MCHC-33.4 RDW-12.5 RDWSD-41.1 Plt ___
___ 08:26PM BLOOD Neuts-90.9* Lymphs-4.5* Monos-3.8* 
Eos-0.1* Baso-0.3 Im ___ AbsNeut-13.53* AbsLymp-0.67* 
AbsMono-0.56 AbsEos-0.01* AbsBaso-0.04
___ 08:26PM BLOOD ___ PTT-23.7* ___
___ 08:26PM BLOOD Glucose-245* UreaN-15 Creat-0.7 Na-137 
K-4.9 Cl-99 HCO3-23 AnGap-15
___ 08:31PM BLOOD ___ pO2-103 pCO2-37 pH-7.44 
calTCO2-26 Base XS-0 Intubat-NOT INTUBA
___ 08:31PM BLOOD O2 Sat-96

===============================================================

DISCHARGE LABS:

___ 04:59AM BLOOD %HbA1c-6.4* eAG-137*

===============================================================

IMAGING:

PORTABLE CXR ___:
Probable artifact mimicking a left apical pneumothorax however 
repeat exam in
the Radiology department including expiratory film is suggested 
to exclude
pneumothorax.

CXR PA/LATERAL ___:
No pneumothorax. 
Mild pulmonary edema may have increased since ___.
 
Brief Hospital Course:
___ lady w/ severe persistent asthma (1 prior intubation), 
allergies, and depression who presented with shortness of breath 
and wheezing and was found to have an acute asthma exacerbation.

#Asthma Exacerbation
#Shortness of breath
#Allergies:
She had diffuse expiratory wheezes on exam and increased work of 
breathing at rest.  She initially required 1.5L of oxygen.  
Initial ABG was unremarkable.  CXR showed no evidence of 
pneumonia.  She was afebrile throughout her hospital course.  
She was having a mildly productive cough.  She was treated with 
IV Solumedrol 80mg on ___ and then started on Prednisone 60mg 
daily on ___.  She was on scheduled duonebs Q6H plus PRN 
albuterol nebs Q2H.  She was continued on her home Flovent, 
Advair, and Montelukast.  She had been exposed to a sick child 
recently and was having some URI symptoms prior to admission, 
which may have triggered the exacerbation.  She also has 
seasonal allergies and was continued on Cetirizine.  She has an 
outpatient pulmonologist at ___ who originally wanted to start 
her on Nucala (mepolizumab), but then needed insurance approval, 
which apparently she has now, but needs a new appointment for 
this to be administered. The patient improved significantly 
while in the hospital and was saturating well on room air prior 
to discharge. She completed 5 days of steroids while in the 
hospital. She will follow up with PCP within the next 1 week.

#Hyperglycemia: She has had documented hyperglycemia with 
systemic steroids in the past, but no formal diagnosis of 
diabetes.  Her blood glucose was in the 120s-210s and controlled 
with sliding scale Humalog.  Her A1c was 6.4.

Transitional issues:
- Patient to follow up with Pulmonary for consideration of 
mepolizumab
- No changes made to home medications

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. EPINEPHrine (EpiPEN) 0.3 mg IM ONCE MR1 anaphylaxis 
2. fluticasone-salmeterol 500-50 mcg/dose inhalation DAILY 
3. BuPROPion (Sustained Release) 200 mg PO BID 
4. Fluticasone Propionate 110mcg 2 PUFF IH BID 
5. LamoTRIgine 50 mg PO BID 
6. Mirtazapine 45 mg PO QHS 
7. Montelukast 10 mg PO DAILY 
8. Cetirizine 10 mg PO DAILY 
9. Ipratropium-Albuterol Neb 1 NEB NEB Q6H:PRN shortness of 
breath 
10. albuterol sulfate 90 mcg/actuation inhalation Q4H:PRN 

 
Discharge Medications:
1.  albuterol sulfate 90 mcg/actuation inhalation Q4H:PRN  
2.  BuPROPion (Sustained Release) 200 mg PO BID  
3.  Cetirizine 10 mg PO DAILY  
4.  EPINEPHrine (EpiPEN) 0.3 mg IM ONCE MR1 anaphylaxis  
5.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
6.  fluticasone-salmeterol 500-50 mcg/dose inhalation DAILY  
7.  Ipratropium-Albuterol Neb 1 NEB NEB Q6H:PRN shortness of 
breath  
8.  LamoTRIgine 50 mg PO BID  
9.  Mirtazapine 45 mg PO QHS  
10.  Montelukast 10 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Asthma exacerbation
Hyperglycemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were hospitalized with an asthma exacerbation.  You were 
started on Prednisone (steroid) to help treat this exacerbation, 
as well as duoneb breathing treatments every 6 hours.  You were 
continued on your home inhalers.  You were not found to have a 
pneumonia.  You will continue steroids when you leave the 
hospital.  If you has worsening shortness of breath, coughing, 
wheezing, or you have to use your rescue inhaler multiple times 
per day, please call your primary doctor.  If your symptoms 
become severe again and you cannot catch your breath, return to 
the emergency department.

You were also found to have high blood sugar levels.  This is 
likely due to steroids you were given for your asthma.  However, 
you should also be screened for underlying diabetes.
 
Followup Instructions:
___